US05747498
(6,7-Diisopropoxy-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride
6,7-Diisopropoxyquinazolin-4-one (55 mg, 0.210 mmol), triphenylphosphine (121 mg, 0.462 mmol) and 3 mL of carbon tetrachloride were refluxed for 16 hours and the reaction mixture was concentrated in vacuo to a residue which was diluted with 3 mL of isopropyl alcohol and 3-ethynylaniline (30 mg, 0.257 mmol) and refluxed for 3 hours. The cooled reaction mixture was vacuum evaporated to afford the solid title product which was column chromatographed on silica gel eluted with 5% acetone in methylene chloride containing 0.25% triethylamine. Fractions containing the pure product were concentrated in vacuo to a solid which was dissolved in 2 mL of 1N HCl in methanol, precipitated with ethyl ether, filtered and dried in vacuo at 70° C. to afford the title product; 140 mg (75%); mp 241°-242° C.

reactant | 6,7-Diisopropoxyquinazolin-4-one | 0.210 mmol, 55 mg | C(C)(C)OC=1C=C2C(NC=NC2=CC1OC(C)C)=O | C14H18N2O3
reactant | triphenylphosphine | 0.462 mmol, 121 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-ethynylaniline | 0.257 mmol, 30 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | isopropyl alcohol | 3 mL | C(C)(C)O | C3H8O
product | (6,7-Diisopropoxy-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine Hydrochloride | Cl.C(C)(C)OC=1C=C2C(=NC=NC2=CC1OC(C)C)NC1=CC(=CC=C1)C#C | InChI=1S/C22H23N3O2.ClH/c1-6-16-8-7-9-17(10-16)25-22-18-11-20(26-14(2)3)21(27-15(4)5)12-19(18)23-13-24-22;/h1,7-15H,2-5H3,(H,23,24,25);1H
